US09255097B2
Preparation 1E: tert-butyl 1-(4-(4-cyanophenyl)-1-methyl-6-oxo-5-p-tolyl-1,6-dihydropyrimidin-2-yl)piperidin-4-ylcarbamate
A mixture of tert-butyl 1-(5-chloro-4-(4-cyanophenyl)-1-methyl-6-oxo-1,6-dihydropyrimidin-2-yl)piperidin-4-ylcarbamate (200 mg, 0.45 mmol), p-tolylboronic acid (123 mg, 0.90 mmol), [1,1′-bis(di-tert-butylphosphino)ferrocene]dichloropalladium(II) (28 mg, 0.045 mol) and K2CO3 (124 mg, 0.90 mmol) in DMF (10 mL) was flushed with nitrogen and stirred at 85° C. for 2 h. Water was added, and the mixture was extracted with EA (3×). The organics were combined, washed with water, washed with brine, dried and concentrated in vacuo. The residue was purified by silica chromatography (1:1, EA:PE) to give 50 mg (22%) of the title compound. [M+H] Calc'd for C29H33N5O3, 500. Found, 500.

reactant | tert-butyl 1-(5-chloro-4-(4-cyanophenyl)-1-methyl-6-oxo-1,6-dihydropyrimidin-2-yl)piperidin-4-ylcarbamate | 0.45 mmol, 200 mg | ClC1=C(N=C(N(C1=O)C)N1CCC(CC1)NC(OC(C)(C)C)=O)C1=CC=C(C=C1)C#N | C22H26ClN5O3
reactant | p-tolylboronic acid | 0.90 mmol, 123 mg | B(C=1C=CC(=CC1)C)(O)O | C7H9BO2
reactant | K2CO3 | 0.90 mmol, 124 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | [1,1′-bis(di-tert-butylphosphino)ferrocene]dichloropalladium(II) | 0.045 mol, 28 mg | CC(C)(C)P([C]1[CH][CH][CH][CH]1)C(C)(C)C.CC(C)(C)P([C]1[CH][CH][CH][CH]1)C(C)(C)C.Cl[Pd]Cl.[Fe]
product | tert-butyl 1-(4-(4-cyanophenyl)-1-methyl-6-oxo-5-p-tolyl-1,6-dihydropyrimidin-2-yl)piperidin-4-ylcarbamate | 50 mg, 22% | C(#N)C1=CC=C(C=C1)C=1N=C(N(C(C1C1=CC=C(C=C1)C)=O)C)N1CCC(CC1)NC(OC(C)(C)C)=O | C29H33N5O3
